US07645752B2
Step 3: Preparation of 3-[3-(phenylsulfonyl)-1H-indol-4-yl]propan-1-ol:
To a solution of 3-[3-(phenylthio)-1H-indol-4-yl]propan-1-ol (1.024 g, 3.61 mmol) in acetone (45 mL) was added a solution of sodium hydrogen carbonate (0.759 g, 9.03 mmol) in water (45 mL) followed by OXONE® (supplied by DuPont, potassium peroxymonosulfate as active ingredient) (5.55 g, 9.03 mol) and the reaction mixture stirred at room temperature for 26 hours. The acetone was removed in vacuo and the resulting suspension partitioned between ethyl acetate (120 mL) and water (100 mL). The organic phase was separated, washed with water (100 mL) and brine (100 mL), dried (Na2SO4), filtered and concentrated in vacuo to afford a white foam. Ethyl acetate (30 mL) was added to the crude product and the mixture stirred vigorously for 2 hours then filtered to afford the title compound as a white solid (1.027 g, 90%). MS (ES−) m/z 314.0 (M−H).

reactant | 3-[3-(phenylthio)-1H-indol-4-yl]propan-1-ol | 3.61 mmol, 1.024 g | C1(=CC=CC=C1)SC1=CNC2=CC=CC(=C12)CCCO | C17H17NOS
reactant | sodium hydrogen carbonate | 9.03 mmol, 0.759 g | C(O)([O-])=O.[Na+]
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | water | 45 mL | O | H2O
solvent | acetone | 45 mL | CC(=O)C | C3H6O
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-[3-(phenylsulfonyl)-1H-indol-4-yl]propan-1-ol | 1.027 g, 90% | C1(=CC=CC=C1)S(=O)(=O)C1=CNC2=CC=CC(=C12)CCCO | C17H17NO3S
